US06369057B1
A) Phenyl 2-chloro-4-(4-methyl-1-piperazinyl)-3-nitrobenzenesulfonate
Phenyl 2,4-dichloro-3-nitrobenzenesulfonate (17.4 g, 0.05 mol) and 25 ml of methylpiperazine in 100 ml of isopropanol were refluxed for 10 minutes and subsequently concentrated. The residue was stirred with 50 ml of 50% methanol, filtered off with suction, and washed with 50% methanol and finally with water. Melting point 94-95° C. (after recrystallization from cyclohexane).

reactant | Phenyl 2,4-dichloro-3-nitrobenzenesulfonate | 0.05 mol, 17.4 g | ClC1=C(C=CC(=C1[N+](=O)[O-])Cl)S(=O)(=O)OC1=CC=CC=C1 | C12H7Cl2NO5S
reactant | methylpiperazine | 25 ml | CN1CCNCC1 | C5H12N2
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | Phenyl 2-chloro-4-(4-methyl-1-piperazinyl)-3-nitrobenzenesulfonate | ClC1=C(C=CC(=C1[N+](=O)[O-])N1CCN(CC1)C)S(=O)(=O)OC1=CC=CC=C1 | C17H18ClN3O5S
